US06503909B1
2,3,5-Trichlorobenzeneboronic Acid
A solution of 2,3,5-trichlorobromobenzene (8.60 g, 0.033 mole) in dry ether (33 ml) and bromoethane (4.73 ml, 7.31 g, 0.067 mole) was added dropwise to a suspension of magnesium turnings (2.80 g, 0.12 mole) in dry ether (21.50 ml) at room temperature. The mixture was refluxed for 0.50 hr and cooled to room temperature. The mixture was then added dropwise under nitrogen to a solution of trimethylborate (5.16 ml, 5.16 g, 0.05 mole) in dry ether (8.60 ml) maintaining the temperature below −60° C. This was warmed to room temperature overnight, then cooled in an ice-bath and treated with 2M hydrochloric acid (10 ml). The ether layer was separated, washed with water (2×20 ml), dried over anhydrous magnesium sulphate, filtered and the filtrate evaporated in vacuo. The residue was triturated with 40-60° C. petroleum ether, filtered and dried in vacuo. Yield 4.57 g (61%), M.p. 257-260° C.

reactant | 2,3,5-trichlorobromobenzene | 0.033 mole, 8.60 g | ClC1=C(C=C(C=C1Cl)Cl)Br | C6H2BrCl3
reactant | bromoethane | 0.067 mole, 4.73 ml, 7.31 g | BrCC | C2H5Br
reactant | magnesium | 0.12 mole, 2.80 g | [Mg] | Mg
reactant | trimethylborate | 0.05 mole, 5.16 ml, 5.16 g | COB(OC)OC | C3H9BO3
reactant | hydrochloric acid | 2M, 10 ml | Cl | ClH
solvent | ether | 33 ml | CCOCC | C4H10O
solvent | ether | 21.50 ml | CCOCC | C4H10O
solvent | ether | 8.60 ml | CCOCC | C4H10O
product | 2,3,5-Trichlorobenzeneboronic Acid | ClC1=C(C=C(C=C1Cl)Cl)B(O)O | C6H4BCl3O2
